US05804569
A mixture of anhydrous tetrahydrofuran (THF, 40 mL) and phosphorus oxychloride (36.8 g, 240 mmol) is cooled to 0° C. Into this stirred solution, a mixture of 17.23 g (200 mmol) of cyclopentanol, triethylamine (36.4 g, 360 mmol) and THF (240 mL) is added dropwise as the temperature is maintained at 0°-4° C. Some material precipitates. The cooling device is removed, and a mixture of ethanolamine (14.7 g, 240 mmol), triethylamine (36.4 g, 360 mmol) and THF (180 mL) is added to the stirred solution within 5 minutes. The temperature rises to about 55° C. and stirring is continued at this temperature for one hour. After cooling the reaction mixture to 15° C., a solution of concentrated aqueous HCl (approximate 12N, 30 mL) and water (170 mL) is added to the reaction mixture at 25°-30° C. The reaction mixture is allowed to come to ambient temperature and stirring is continued for one hour. The water layer is removed, and then the THF layer is diluted with methylene dichloride (600 mL). Sodium bicarbonate (50 g) is then added with vigorous stirring. After stirring is continued for 15 minutes, anhydrous sodium sulfate is added and stirring is resumed for a few minutes. The inorganic material is removed by filtration, and the solvent is evaporated under reduced pressure. The residue is taken up in methylene dichloride (500 mL), and the slight turbidity in the resultant solution is removed by swirling with charcoal followed by filtration of the charcoal with a glass filter. Approximately half of the volume of the methylene dichloride mixture is removed in vacuo, and acetone (200 mL) is then added to the concentrated methylene dichloride mixture. Upon cooling to 0° C. for two hours, 39.3 g (94%) of crude product precipitates. This material is dissolved in boiling 2-propanol, and then the solution is passed through a filter and cooled to room temperature. On standing overnight at room temperature, crystalline cyclopentylphosphoethanolamine is obtained and purified by chromatography. TLC: 65:25:5 CHCl3 --CH3OH--H2O; Rf =0.22

reactant | phosphorus oxychloride | 240 mmol, 36.8 g | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | cyclopentanol | 200 mmol, 17.23 g | C1(CCCC1)O | C5H10O
reactant | triethylamine | 360 mmol, 36.4 g | C(C)N(CC)CC | C6H15N
reactant | ethanolamine | 240 mmol, 14.7 g | C(O)CN | C2H7NO
reactant | triethylamine | 360 mmol, 36.4 g | C(C)N(CC)CC | C6H15N
reactant | HCl | 12N, 30 mL | Cl | ClH
reactant | water | 170 mL | O | H2O
solvent | THF | 180 mL | O1CCCC1 | C4H8O
solvent | THF | 240 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 40 mL | O1CCCC1 | C4H8O
product | cyclopentylphosphoethanolamine | C1(CCCC1)OP(=O)(O)OCCN | C7H16NO4P
